US05859004
3-Hydroxy-3-(3-methyl-5-isoxazolyl) methyl-1-azabicyclo[2.2.2]octane
To a solution of 3,5-dimethylisoxazole (9.71 g, 100 mmol) in dry tetrahydrofuran (30 ml) cooled to -78° C. was added n-BuLi (2.5M in hexane, 100 mmol). The reaction mixture was stirred at -78° C. for 1 h. A solution of 3-quinuclidinone (6.25 g, 50 mmol) dissolved in dry tetrahydrofuran (50 ml) was added. The reaction mixture was stirred for 2 h at -78° C., then quenched with water (100 ml) and acidified with concentrated hydrochloric acid. The water phase was extracted with ether (2×50 ml), then basified with solid potassium carbonate and extracted with methylene chloride (4×100 ml). The methylene chloride phases were collected and dried over magnesium sulfate. After evaporation of the solvent the title compound was isolated in 10.04 g. 90% yield.

reactant | 3,5-dimethylisoxazole | 100 mmol, 9.71 g | CC1=NOC(=C1)C | C5H7NO
reactant | n-BuLi | 100 mmol, 2.5M | [Li]CCCC
reactant | 3-quinuclidinone | 50 mmol, 6.25 g | N12CC(C(CC1)CC2)=O | C7H11NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-3-(3-methyl-5-isoxazolyl) methyl-1-azabicyclo[2.2.2]octane | 90% yield | OC1(CN2CCC1CC2)CC2=CC(=NO2)C | C12H18N2O2
